US05731340
10.56 g of cyclooctylamine are dissolved in 500 ml of anhydrous dichloromethane and 1.5 g of cupric acetate are added thereto. A solution of 44.2 g of 2,6-dimethoxy-4-methylphenyllead triacetate, prepared above, in 250 ml of anhydrous dichloromethane is added dropwise to the reaction mixture under an inert atmosphere. The reaction mixture is left at room temperature for 18 hours, the heterogeneous mixture is then filtered over a bed of celite and the filtrate is concentrated to 450 ml. The organic phase is washed with water (3 times). The organic phase is extracted with 3×300 ml of 1N hydrochloric acid. The acidic aqeuous phase is basified with a 2N aqueous sodium hydroxide solution (pH=11). The alkaline aqeuous phase is extracted with dichloromethane and the organic extracts are dried over anhydrous sodium sulphate. Evaporation leaves an oil which is purified by flash chromatography on a column of silica gel, eluent:dichloromethane/methanol:99/1 (v/v) in order to obtain N-cyclooctyl-2,6-dimethoxy-4-methylaniline in the form of an oil. Yield 52%.

reactant | cyclooctylamine | 10.56 g | C1(CCCCCCC1)N | C8H17N
reactant | 2,6-dimethoxy-4-methylphenyllead triacetate | 44.2 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].COC1=C(C(=CC(=C1)C)OC)[Pb+3]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | N-cyclooctyl-2,6-dimethoxy-4-methylaniline | Yield 52% | C1(CCCCCCC1)NC1=C(C=C(C=C1OC)C)OC | C17H27NO2
